US05157026
Step 1: 2-Methoxymethyl-7-methylimidazo[4,5-b]pyridine
A mixture of 2,3-diamino-4-picoline (0.1 g, 0.81 mmol) and methoxyacetic acid (0.16 ml, 2 mmol) was heated in a sealed tube at 165° C. for 24 hours. The reaction was cooled and neutralized with NH4OH. The crude material was dissolved in methanol (2 ml) and silica-gel (10 g) was added. The dried silica-gel was then loaded on a silica-gel flash-column and eluted initially with EtOAc and then with 2% methanol in EtOAc. The pure desired compound was obtained as a cream colored solid (0.067 g, 47%).

reactant | 2,3-diamino-4-picoline | 0.81 mmol, 0.1 g | NC1=NC=CC(=C1N)C | C6H9N3
reactant | methoxyacetic acid | 2 mmol, 0.16 ml | COCC(=O)O | C3H6O3
reactant | NH4OH | [NH4+].[OH-]
solvent | methanol | 2 ml | CO | CH4O
product | 2-Methoxymethyl-7-methylimidazo[4,5-b]pyridine | COCC=1NC=2C(=NC=CC2C)N1 | C9H11N3O
